US07820699B2
50.4 Using general method H, 5-chloro-thiophene-2-carboxylic acid ((S)-1-pyrrolidin-3-ylmethyl)-amide trifluoro acetate was reacted with [2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester to give (R)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide. White solid. MS 475.0 ([M+H]+)

reactant | 5-chloro-thiophene-2-carboxylic acid ((S)-1-pyrrolidin-3-ylmethyl)-amide trifluoro acetate | FC(C(=O)O)(F)F.N1C[C@H](CC1)CNC(=O)C=1SC(=CC1)Cl
reactant | [2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C18H12FN3O5
product | (R)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)N1C[C@H](CC1)CNC(=O)C=1SC(=CC1)Cl | C22H20ClFN4O3S
